US05290805
A mixture of 300 moles of decylmethylamine, 300 moles of isononyl chloride and 350 moles of 50% caustic soda, contained in a 50 gallon reactor, was heated for 6 hours at a temperature of 190° C. The organic mixture was cooled, washed with water and further purified by fractional distillation. The amination process afforded a yield of 83% decylisononylmethylamine. When nonyl chloride is used instead of isononyl chloride, the product is decylnonylmethylamine.

reactant | decylmethylamine | 300 moles | C(CCCCCCCCC)NC | C11H25N
reactant | isononyl chloride | 300 moles | C(CCCCCC(C)C)Cl | C9H19Cl
reactant | caustic soda | 350 moles | [OH-].[Na+]
product | decylisononylmethylamine | yield of 83% | C(CCCCCCCCC)N(C)CCCCCCC(C)C | C20H43N
